US07834021B2
A solution of 2-(1,4-dioxaspiro[4.5]dec-8-yl) -1,3-thiazole (0.21 g, 0.93 mmol) in 10 mL of THF/3NHCl (1:1) was stirred for 2 h at 50° C. After cooling to room temperature, the mixture was treated with Na2CO3 to pH 8 and extracted with EtOAc (3×). The combined organic layers were washed with saturated NaCl solution, dried (MgSO4), and concentrated to give 0.16 g of 4-(1,3-thiazol-2-yl)cyclohexanone in 95% yield. MS (EI) calcd: (M+H)+=182.1; found: 181.9.

reactant | 2-(1,4-dioxaspiro[4.5]dec-8-yl) -1,3-thiazole | 0.93 mmol, 0.21 g | O1CCOC12CCC(CC2)C=2SC=CN2 | C11H15NO2S
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-(1,3-thiazol-2-yl)cyclohexanone | 0.16 g, 95% yield | S1C(=NC=C1)C1CCC(CC1)=O | C9H11NOS
